US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 4-fluoroaniline were reacted to yield N4-(3,4-ethylenedioxyphenyl)-N2-(4-fluorophenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.92 (bs, 1H), 7.80 (bs, 1H), 7.60 (bd, 2H), 6.90 (m, 2H), 6.80 (bs, 1H), 6.65 (bs, 1H), 4.25 (s, 4H); LCMS: ret. time: 22.87 min.; purity: 97%; MS (m/e): 357 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | N4-(3,4-ethylenedioxyphenyl)-N2-(4-fluorophenyl)-5-fluoro-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)F | C18H14F2N4O2
